US07407691B2
17.4 g of ethyl 3-(4-hydroxyphenyl)propionate and 6.1 g of potassium hydroxide were added to 150 ml of ethanol, and stirred at 60° C. for 1 hour. This was cooled to 40° C., and 30 g of 3-[(tosyloxy)methyl]-3-ethyloxetane was dropwise added to it. Then, this was refluxed for 3 hours. Ethanol was evaporated away, and water and toluene were added to it for liquid-liquid separation. The toluene layer was washed with 3% hydrochloric acid, saturated sodium hydrogencarbonate and water, and then toluene was evaporated away. To the resulting residue, added were 20 g of sodium hydroxide, 100 ml of ethanol and 50 ml of water, and this was refluxed for 2 hours. Ethanol was evaporated away, and the resulting residue was poured into 500 ml of 5% hydrochloric acid, and a crystal was thus formed. The crystal taken out through filtration was recrystallized from a mixed solvent of ethanol and water, and 5 g of [4-(3-ethyloxetan-3-ylmethoxy)phenyl]propionic acid (OX7) was obtained. Its melting point was 85° C.

reactant | ethyl 3-(4-hydroxyphenyl)propionate | 17.4 g | OC1=CC=C(C=C1)CCC(=O)OCC | C11H14O3
reactant | potassium hydroxide | 6.1 g | [OH-].[K+]
reactant | 3-[(tosyloxy)methyl]-3-ethyloxetane | 30 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1(COC1)CC | C13H18O4S
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | [4-(3-ethyloxetan-3-ylmethoxy)phenyl]propionic acid | 5 g | C(C)C1(COC1)COC1=CC=C(C=C1)C(C(=O)O)C | C15H20O4
